US07528259B2
2-Dimethylamino-4,5,6,7-tetrabromo-1H-benzimidazole hydrochloride
2-Dimethylamino-4,5,6,7-tetrabromobenzimidazole (0.48 g, 1 mmol) was dissolved by heating in EtOH (80 ml) and to this solution hydrochloric acid (36% H2O sol., 5 ml) was added. Almost immediately the microcrystalline solid begins to separate. The mixture was kept in 4° C. overnight and hydrochloride (350 mg, 68%) was separated as small needles. M.p. >330° C. (decomp.).

reactant | 2-Dimethylamino-4,5,6,7-tetrabromobenzimidazole | 1 mmol, 0.48 g | CN(C=1NC2=C(N1)C(=C(C(=C2Br)Br)Br)Br)C | C9H7Br4N3
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | EtOH | 80 ml | CCO | C2H6O
product | 2-Dimethylamino-4,5,6,7-tetrabromo-1H-benzimidazole hydrochloride | Cl.CN(C1=NC2=C(N1)C(=C(C(=C2Br)Br)Br)Br)C | InChI=1S/C9H7Br4N3.ClH/c1-16(2)9-14-7-5(12)3(10)4(11)6(13)8(7)15-9;/h1-2H3,(H,14,15);1H
